US03991045
To a mixture of 2 ml of water and 1289 mg (2.47 m-mols) of margaric anhydride (molecular weight 522) was added 300 mg (1.23 m-mols) of 1-β-D-arabinosylcytosine (molecular weight 243) and the mixture was heated to 80° C to dissolve the solid materials. After stirring the solution for 5 hours at 80° C, the reaction mixture was allowed to cool and the precipitates thus formed were collected by filtration, washed sufficiently with water, and dried. Then, the precipitates were added to n-hexane followed by refluxing and after cooling, the precipitates were collected by filtration and recrystallized from ethyl acetate to provide 604 mg (1.22 m-mols) of N4 -margaroyl-1-β-D-arabinofuranosylcytosine (molecular weight 495) at a yield of 99.2% with a melting point of 144° to 147° C.

reactant | margaric anhydride | 1289 mg | C(CCCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCCC)=O | C34H66O3
reactant | 1-β-D-arabinosylcytosine | 300 mg | [C@@H]1([C@@H](O)[C@H](O)[C@H](O)CO1)N1C(=O)N=C(N)C=C1 | C9H13N3O5
solvent | water | 2 ml | O | H2O
product | N4 -margaroyl-1-β-D-arabinofuranosylcytosine | 604 mg, yield of 99.2% | C(CCCCCCCCCCCCCCCC)(=O)NC1=NC(N(C=C1)[C@H]1[C@@H](O)[C@H](O)[C@H](O1)CO)=O | C26H45N3O6
